US06124323
1-(2-(4-Hydroxyphenoxy)ethyl)-4-((2-naphthyl)methyl)piperidine hydrochloride
The title compound was prepared from 4-((2-naphthyl)methyl)piperidine hydrochloride (150 mg, 573 μmol), 2-(4-hydroxyphenoxy)ethyl bromide (130 mg, 602 μmol) and NaHCO3 (97 mg, 1.17 mmol) as a pale yellow solid (182 mg): mp 221-222° C.; 1H NMR (CD3OD) 1.53-1.72 (m, 2H), 1.87-2.12 (m, 3H), 2.81 (d, J=6.9 Hz, 2H), 2.92-3.18 (m, 2H), 3.43-3.70 (m, 4H), 4.25 (t, J=4.8 Hz, 2H), 6.73 (d, J=9.3 Hz, 2H), 6.85 (d, J=9.3 Hz, 2H), 7.32-7.49 (m, 3H), 7.66 (s, 1H), 7.76-7.85 (m, 3H); Anal. Calcd for C24H28ClNO2 ·0.4H2O: C, 71.15; H, 7.16; N, 3.46. Found: C, 71.17; H. 6.80; N, 3.11.

reactant | 4-((2-naphthyl)methyl)piperidine hydrochloride | 573 μmol, 150 mg | Cl.C1=C(C=CC2=CC=CC=C12)CC1CCNCC1
reactant | 2-(4-hydroxyphenoxy)ethyl bromide | 602 μmol, 130 mg | OC1=CC=C(OCCBr)C=C1 | C8H9BrO2
reactant | NaHCO3 | 1.17 mmol, 97 mg | C(=O)(O)[O-].[Na+]
product | 1-(2-(4-Hydroxyphenoxy)ethyl)-4-((2-naphthyl)methyl)piperidine hydrochloride | Cl.OC1=CC=C(OCCN2CCC(CC2)CC2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C24H27NO2.ClH/c26-23-7-9-24(10-8-23)27-16-15-25-13-11-19(12-14-25)17-20-5-6-21-3-1-2-4-22(21)18-20;/h1-10,18-19,26H,11-17H2;1H
